data/polar.json
{"reaction_name": "Dearomatizing addition to an azaarenium / acridinium ion", "rsmi": "[c:1]1([B-:41]2([CH:35]([CH3:4])[c:6]3[cH:2][cH:13][cH:26][cH:14][cH:3]3)[O:33][CH2:18][C:24]([CH3:15])([CH3:16])[CH2:19][O:34]2)[cH:27][cH:11][c:38]([C:23]([F:20])([F:21])[F:22])[cH:12][cH:28]1.[n+:5]1([CH3:25])[c:7]2[cH:29][cH:36][cH:31][cH:9][c:39]2[cH:17][c:40]2[c:8]1[cH:30][cH:37][cH:32][cH:10]2>>[c:1]1([B-:41]2=[O+:33][CH2:18][C:24]([CH3:15])([CH3:16])[CH2:19][O:34]2)[cH:27][cH:11][c:38]([C:23]([F:20])([F:21])[F:22])[cH:12][cH:28]1.[cH:2]1[c:6]([CH:35]([CH3:4])[CH:17]2[c:39]3[c:7]([cH:29][cH:36][cH:31][cH:9]3)[N:5]([CH3:25])[c:8]3[cH:30][cH:37][cH:32][cH:10][c:40]32)[cH:3][cH:14][cH:26][cH:13]1", "epd": [["LP-/Pi+", [33], [41, 33]], ["Sigma-/Sigma+", [35, 41], [35, 17]], ["Pi-/Pi+", [17, 39], [39, 7]], ["Pi-/LP+", [7, 5], [5]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH2:7]1[N:19]2[CH2:8][CH2:23][N:10]([CH2:46][c:14]3[cH:25][cH:30][cH:37][cH:31][cH:26]3)[c:34]3[c:17]2[c:33]([cH:20][n:18][cH:21]3)[N:9]([CH2:45][c:13]2[cH:24][cH:29][cH:36][cH:32][cH:27]2)[CH2:22]1.[O:1]=[S:4](=[O:2])([C:6]([F:42])([F:43])[F:44])[c:39]1[cH:28][c:5]2[n+:11]([O-:3])[o:41][n:15][c:47]2[c:38]([N+:16]([O-:12])=[O:35])[cH:40]1>>[O:1]=[S:4](=[O:2])([C:6]([F:42])([F:43])[F:44])[C:39]1=[CH:40][C:38](=[N+:16]([O-:12])[O-:35])[c:47]2[c:5]([n+:11]([O-:3])[o:41][n:15]2)[CH:28]1[N:18]1[CH:20]=[C:33]2[N:9]([CH2:45][c:13]3[cH:24][cH:29][cH:36][cH:32][cH:27]3)[CH2:22][CH2:7][N+:19]3=[C:17]2[C:34](=[CH:21]1)[N:10]([CH2:46][c:14]1[cH:25][cH:30][cH:37][cH:31][cH:26]1)[CH2:23][CH2:8]3", "epd": [["LP-/Pi+", [19], [17, 19]], ["Pi-/Pi+", [33, 17], [20, 33]], ["Pi-/Sigma+", [18, 20], [18, 28]], ["Pi-/Pi+", [28, 39], [39, 40]], ["Pi-/Pi+", [40, 38], [38, 16]], ["Pi-/LP+", [16, 35], [35]]]}
{"reaction_name": "Thia-Michael addition", "rsmi": "[O:1]=[C:24]1[N:5]([CH3:21])[C:23](=[O:7])[N:6]([CH3:22])[C:25](=[O:2])[C:14]1=[CH:17][c:8]1[cH:29][cH:3][c:15]([O:12][CH3:11])[cH:4][cH:30]1.[cH:9]1[c:20]2[cH:19][cH:31][c:27]([S-:13])[cH:18][c:28]2[cH:16][cH:10][cH:26]1>>[O-:1][c:24]1[n:5]([CH3:21])[c:23](=[O:7])[n:6]([CH3:22])[c:25](=[O:2])[c:14]1[CH:17]([c:8]1[cH:29][cH:3][c:15]([O:12][CH3:11])[cH:4][cH:30]1)[S:13][c:27]1[cH:18][c:28]2[cH:16][cH:10][cH:26][cH:9][c:20]2[cH:19][cH:31]1", "epd": [["LP-/Sigma+", [13], [13, 17]], ["Pi-/Pi+", [17, 14], [14, 24]], ["Pi-/LP+", [24, 1], [1]]]}
{"reaction_name": "Elimination from Michael adducts", "rsmi": "[CH3:2][C:6]([CH:9]([CH:8]([CH3:4])[O:5][CH3:7])[H:11])=[O:10].[O-:1][CH3:3]>>[CH3:2][C:6]([CH:9]=[CH:8][CH3:4])=[O:10].[O-:5][CH3:7].[O:1]([CH3:3])[H:11]", "epd": [["LP-/Sigma+", [1], [1, 11]], ["Sigma-/Pi+", [9, 11], [8, 9]], ["Sigma-/LP+", [5, 8], [5]]]}
{"reaction_name": "General nucleophilic 1,2-addition to a neutral carbonyl", "rsmi": "[Cl:6][C:18]1=[C:20]([Cl:16])[C:9](=[O:12])[C:8](=[O:11])[C:21]([Cl:17])=[C:19]1[Cl:7].[c:1]1([O-:15])[cH:13][cH:2][c:5]([O:10][CH3:4])[cH:3][cH:14]1>>[c:1]1([O:15][C:8]2([O-:11])[C:9](=[O:12])[C:20]([Cl:16])=[C:18]([Cl:6])[C:19]([Cl:7])=[C:21]2[Cl:17])[cH:13][cH:2][c:5]([O:10][CH3:4])[cH:3][cH:14]1", "epd": [["LP-/Sigma+", [15], [15, 8]], ["Pi-/LP+", [8, 11], [11]]]}
{"reaction_name": "Aldol–Michael cascade", "rsmi": "[CH2-:1][C:2](=[O:3])[CH3:4].[CH2:5]=[O:6].[CH2:7]=[CH:8][C:9](=[O:10])[CH3:11]>>[CH3:4][C:2](=[O:3])[CH2:1][CH2:5][O:6][CH2:7][CH:8]=[C:9]([O-:10])[CH3:11]", "epd": [["LP-/Sigma+", [1], [1, 5]], ["Pi-/LP+", [5, 6], [6]], ["LP-/Sigma+", [6], [6, 7]], ["Pi-/LP+", [7, 8], [8]], ["LP-/Pi+", [8], [8, 9]], ["Pi-/LP+", [9, 10], [10]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[NH:1]1[CH:4]([C:23](=[O:6])[O-:21])[CH2:12][CH2:22][CH2:5]1.[cH:2]1[cH:11][cH:3][c:7]2[c:13]([o+:8][c:10](-[c:19]3[cH:16][cH:14][cH:20][cH:15][cH:17]3)[cH:9][cH:18]2)[cH:24]1>>[NH+:1]1([CH:18]2[c:7]3[cH:3][cH:11][cH:2][cH:24][c:13]3[O:8][C:10]([c:19]3[cH:16][cH:14][cH:20][cH:15][cH:17]3)=[CH:9]2)[CH:4]([C:23](=[O:6])[O-:21])[CH2:12][CH2:22][CH2:5]1", "epd": [["LP-/Sigma+", [1], [1, 18]], ["Pi-/Pi+", [18, 9], [9, 10]], ["Pi-/LP+", [10, 8], [8]]]}
{"reaction_name": "Diazonium iodide substitution", "rsmi": "[I-:3].[c:1]1([N+:9]#[N:8])[cH:4][cH:6][cH:2][cH:7][cH:5]1>>[N:8]#[N:9].[c:1]1([I:3])[cH:4][cH:6][cH:2][cH:7][cH:5]1", "epd": [["LP-/Sigma+", [3], [1, 3]], ["Sigma-/LP+", [1, 9], [9]]]}
{"reaction_name": "Dearomatizing capture of a tropylium / arenium ion", "rsmi": "[O-:1][C:15](=[CH:12][c:4]1[cH:7][cH:13][n:5][cH:14][cH:8]1)[O:18][CH2:19][CH3:6].[cH:2]1[cH:3][cH:11][cH:17][cH+:9][cH:16][cH:10]1>>[O:1]=[C:15]([CH:12]([c:4]1[cH:7][cH:13][n:5][cH:14][cH:8]1)[CH:9]1[CH:16]=[CH:10][CH:2]=[CH:3][CH:11]=[CH:17]1)[O:18][CH2:19][CH3:6]", "epd": [["LP-/Pi+", [1], [15, 1]], ["Pi-/Sigma+", [12, 15], [12, 9]]]}
